US04604390
5-Nitro-2-[2-(diethylamino)ethyl]-8-methoxy-2H-[1]-benzopyrano[4,3,2-cd]indazol, hydrochloride
A mixture of 5.0 g of 1-chloro-6-methoxy-4-nitro-9H-xanthen-9-one, 2.58 g of [2-(diethylamino)ethyl]-hydrazine, and 3.43 ml of diisopropylethylamine in 100 ml of N,N-dimethylformamide was stirred for two hours. The mixture was evaporated to dryness and the residue was triturated with 2-propanol. The solid was collected, washed with diethylether, and dried at 60° C. in vacuo to afford the title compound, a salt with 1.0 equivalent of hydrogen chloride, mp 285°-288° C.

reactant | 1-chloro-6-methoxy-4-nitro-9H-xanthen-9-one | 5.0 g | ClC1=CC=C(C=2OC3=CC(=CC=C3C(C12)=O)OC)[N+](=O)[O-] | C14H8ClNO5
reactant | [2-(diethylamino)ethyl]-hydrazine | 2.58 g | C(C)N(CCNN)CC | C6H17N3
reactant | diisopropylethylamine | 3.43 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 5-Nitro-2-[2-(diethylamino)ethyl]-8-methoxy-2H-[1]-benzopyrano[4,3,2-cd]indazol, hydrochloride | Cl.[N+](=O)([O-])C1=C2C=3C(=NN(C3C=C1)CCN(CC)CC)C1=C(O2)C=C(C=C1)OC | InChI=1S/C20H22N4O4.ClH/c1-4-22(5-2)10-11-23-15-8-9-16(24(25)26)20-18(15)19(21-23)14-7-6-13(27-3)12-17(14)28-20;/h6-9,12H,4-5,10-11H2,1-3H3;1H
